US04016148
In a manner analogous to Example 13(b), but with reaction of dimethyl [(N-benzyloxycarbonyl-L-phenylalanyl)-amino]-methylphosphonate and hydrogen bromide/glacial acetic acid for 2 hours, there was obtained (L-phenylalanylamino)methylphosphonic acid of melting point 266°-268° C (decomposition); [α]D20 = +74.5° (c = 0.8% in water).

reactant | dimethyl [(N-benzyloxycarbonyl-L-phenylalanyl)-amino]-methylphosphonate | C(C1=CC=CC=C1)OC(=O)N[C@@H](CC1=CC=CC=C1)C(=O)NCP(OC)(OC)=O | C20H25N2O6P
reactant | hydrogen bromide | Br | BrH
product | (L-phenylalanylamino)methylphosphonic acid | N[C@@H](CC1=CC=CC=C1)C(=O)NCP(O)(O)=O | C10H15N2O4P
